US05166214
Preparation of N-butyl-N'-(2.4-difluorophenyl)-N-[8-(4,5-diphenyl-1H-imidazol-2-ylthio)octyl]urea
Part C. To a solution of N-butyl-8-(4,5-diphenyl-1H-imidazol-2-ylthio)octanamine (0.2 g, 0.00045 mol) in hexane (15 mL) was added, dropwise, a solution of 2,4-difluorophenylisocyanate (0.065 mL, 0.085 g, 0.00055 mol) in hexane (5 mL) and the reaction mixture was stirred at ambient temperature for 3 hours. The reaction mixture was concentrated under vacuum and the residue was chromatographed with 7:3 hexane-ethyl acetate and the resulting solid was recrystallized from acetonitrile and triturated with hexane to give the title compound (0.138 g, 0.00023 mol) as a white solid, mp 114°-115°. 1H NMR (CDCl3) δ8.1-7.9(m,1H), 7.6-7.2(m,11H), 6.95-6.75(m,2H), 6.5-6.4(m,1H), 3.4-3.1(m,6H), 1.8-1.3(m,16H), 1.0(t,3H,J=8Hz).

reactant | N-butyl-8-(4,5-diphenyl-1H-imidazol-2-ylthio)octanamine | 0.00045 mol, 0.2 g | C(CCC)NCCCCCCCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H37N3S
reactant | 2,4-difluorophenylisocyanate | 0.00055 mol, 0.065 mL, 0.085 g | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | hexane | 15 mL | CCCCCC | C6H14
solvent | hexane | 5 mL | CCCCCC | C6H14
product | N-butyl-N'-(2.4-difluorophenyl)-N-[8-(4,5-diphenyl-1H-imidazol-2-ylthio)octyl]urea | 0.00023 mol, 0.138 g | C(CCC)N(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C34H40F2N4OS
